US07205292B2
3-Amino-1-benzyl-3-[4-(benzyloxy)benzyl]azepan-2-one
Magnesium sulfate (5.0 g, 41.5 mmol) was added to a solution of commercially available 3-amino-1-benzylazepan-2-one (940 mg, 4.31 mmol), triethylamine (0.60 mL, 4.31 mmol) and benzaldehyde (0.46 mL, 4.52 mmol) in dichloromethane (20 mL). After 18 h, the mixture was filtered and concentrated to give the crude imine. Lithium bis(trimethylsilyl)amide (1M in tetrahydrofuran; 1.42 mL, 1.42 mmol) was added to a solution of the crude imine (363 mg, 1.19 mmol) in tetrahydrofuran (4 mL). After 2 h, the mixture was cooled to 0° C. 4-benzyloxybenzyl chloride (290 mg, 1.24 mmol) was added and the mixture was allowed to warm to ambient temperature. After an additional 18 h, the mixture was quenched with 1N hydrochloric acid (10 mL). After 30 min, the mixture was extracted with ethyl acetate, and the organic layer was washed with aqueous saturated sodium carbonate, water, saturated brine, dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography [100% dichloromethane→90% dichloromethane/10% methanol (10% ammonium hydroxide/methanol)] gave the title compound. (109 mg) MS 415 (M+1). 1H NMR (500 MHz, CDCl3) δ 7.44–7.36 (m, 4H), 7.34–7.23 (m, 6H), 7.03 (d, J=8.6 Hz, 2H), 6.81 (d, J=8.6 Hz, 2H), 5.29 (s, 2H), 4.64–4.52 (m, 2H), 3.31–3.26 (m, 1H), 3.22–3.18 (m, 1H), 3.02 (d, J=13.4 Hz, 1H), 2.86 (d, J=13.7 Hz, 1H), 1.90–1.75 (m, 4H), 1.72–1.60 (m, 2H), 1.49–1.42 (m, 2H).

reactant | Magnesium sulfate | 41.5 mmol, 5.0 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 3-amino-1-benzylazepan-2-one | 4.31 mmol, 940 mg | NC1C(N(CCCC1)CC1=CC=CC=C1)=O | C13H18N2O
reactant | triethylamine | 4.31 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | benzaldehyde | 4.52 mmol, 0.46 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | Lithium bis(trimethylsilyl)amide | 1.42 mmol, 1M, 1.42 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-benzyloxybenzyl chloride | 1.24 mmol, 290 mg | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 3-Amino-1-benzyl-3-[4-(benzyloxy)benzyl]azepan-2-one | NC1(C(N(CCCC1)CC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C27H30N2O2
